US07884210B2
{2-[3-(3-Chloro-2-methoxy-phenyl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-(3-chloro-2-methoxy-phenyl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclopentylmethyl-(3-chloro-2-methoxy-phenyl)-amine and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester.

reactant | {2-[3-(3-chloro-2-methoxy-phenyl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(CC1CCCC1)C1=C(C(=CC=C1)Cl)OC)=O | C21H26ClN3O4S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | cyclopentylmethyl-(3-chloro-2-methoxy-phenyl)-amine | C1(CCCC1)CNC1=C(C(=CC=C1)Cl)OC | C13H18ClNO
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(3-Chloro-2-methoxy-phenyl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid | ClC=1C(=C(C=CC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CC1CCCC1)OC | C19H22ClN3O4S2
